US08686022B2
(S)-1-methyl-7-[4-(1-methyl-pyrrolidine-2-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carboxylic acid-(5-tert-butyl-3-formyl-2-methoxy-phenyl)-amide
200 mg (S)-1-methyl-7-[4-(1-methyl-pyrrolidine-2-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carboxylic acid-(5-tert-butyl-3-hydroxymethyl-2-methoxy-phenyl)-amide are dissolved in 5 ml dichloromethane, cooled to 0° C. and combined with 167 mg 1,1-dihydro-1,1,1-triacetoxy-1,2-benziodoxol-3(1H)-one (Dess-Martin-Periodinane). The mixture is stirred for 12 hours, while being heated to ambient temperature. Then it is divided between dichloromethane and a 10% aqueous potassium carbonate solution. A solid is precipitated which is filtered off. The liquid phases are separated and the organic phase is dried on magnesium sulphate. The solvents are then eliminated in vacuo. The product thus obtained is further reacted directly.

reactant | (S)-1-methyl-7-[4-(1-methyl-pyrrolidine-2-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carboxylic acid-(5-tert-butyl-3-hydroxymethyl-2-methoxy-phenyl)-amide | 200 mg | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCN(CC1)C(=O)[C@H]1N(CCC1)C)C)OC)CO | C33H45N5O4
reactant | 1,1-dihydro-1,1,1-triacetoxy-1,2-benziodoxol-3(1H)-one | 167 mg | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (S)-1-methyl-7-[4-(1-methyl-pyrrolidine-2-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carboxylic acid-(5-tert-butyl-3-formyl-2-methoxy-phenyl)-amide | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCN(CC1)C(=O)[C@H]1N(CCC1)C)C)OC)C=O | C33H43N5O4
